US06593374B2
To a solution of acetic acid (10 mL) in H2O (60 mL), was added 7-[(tertbutyldimethylsilyl)oxy]-1-hydroxy-6-methoxy-1-(3′,4′,5′-trimethoxyphenyl)-tetralin (137 mg, 0.29 mmol). The solution was heated to reflux for 8 hour, and then cooled down to rt. NaHCO3 (20 mL, saturated solution) was added, and the mixture was partitioned between CH2Cl2 and water. The organic layer was dried over anhydrous sodium sulfate, and after filtration, the organic layer was concentrated in vacuo to provide a yellow oil. 7-Hydroxy-6-methoxy-1-(3′,4′,5′-trimethoxyphenyl)-3,4-dihydronaphthalene (84.3 mg, 0.25 mmol, 86%) was obtained following purification by column chromatography. 1H-NMR (CDCl3, 300 MHz) 2.37 (m, 2H), 2.78 (t, J=7.7 Hz, 2H), 3.84 (s, 6H), 3.88 (s, 3H), 3.91 (s, 3H), 5.41 (s, 1H), 5.98 (t, J=4.6 Hz, 1H), 6.54 (s, 2H), 6.68 (s, 1H), 6.81 (s, 1H).

reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
reactant | 7-[(tertbutyldimethylsilyl)oxy]-1-hydroxy-6-methoxy-1-(3′,4′,5′-trimethoxyphenyl)-tetralin | 0.29 mmol, 137 mg | C(C)(C)(C)[Si](OC1=C(C=C2CCCC(C2=C1)(C1=CC(=C(C(=C1)OC)OC)OC)O)OC)(C)C | C26H38O6Si
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | H2O | 60 mL | O | H2O
product | 7-Hydroxy-6-methoxy-1-(3′,4′,5′-trimethoxyphenyl)-3,4-dihydronaphthalene | 0.25 mmol, 84.3 mg, 86% | OC1=C(C=C2CCC=C(C2=C1)C1=CC(=C(C(=C1)OC)OC)OC)OC | C20H22O5
